US07022707B2
2,6-Difluoro-4-difluoromethoxybenzyl cis-2,6-dimethylpiperazine-1-carboxylate hydrochloride was prepared from cis 1-chlorocarbonyl-2,6-dimethyl-4-tert-butoxycarbonylpiperazine and 2,6-difluoro-4-difluoromethoxybenzyl alcohol according to the method described for Example 54 to give the product as a, white solid (0.1406 g, 65% overall); νmax (nujol)/cm−1 3342, 1684, 1640, 1599, 1378, 1308, 1166, and 1089; δH (400 MHz, DMSO-d6) 9.69 (2H, br), 7.38 (1H, t, J 73 Hz), 7.15–7.10 (2H, m), 5.14 (2H, s), 4.24 (2H, m), 3.13 (2H, d, J 13 Hz), 3.05 (2H, dd, J 5.2 and 13 Hz), and 1.27 (6H, d, J 7.2 Hz).

reactant | cis 1-chlorocarbonyl-2,6-dimethyl-4-tert-butoxycarbonylpiperazine | ClC(=O)N1[C@H](CN(C[C@H]1C)C(=O)OC(C)(C)C)C | C12H21ClN2O3
reactant | 2,6-difluoro-4-difluoromethoxybenzyl alcohol | FC1=C(CO)C(=CC(=C1)OC(F)F)F | C8H6F4O2
product | 2,6-Difluoro-4-difluoromethoxybenzyl cis-2,6-dimethylpiperazine-1-carboxylate hydrochloride | Cl.C[C@@H]1N([C@@H](CNC1)C)C(=O)OCC1=C(C=C(C=C1F)OC(F)F)F | InChI=1S/C15H18F4N2O3.ClH/c1-8-5-20-6-9(2)21(8)15(22)23-7-11-12(16)3-10(4-13(11)17)24-14(18)19;/h3-4,8-9,14,20H,5-7H2,1-2H3;1H/t8-,9+;
